US07300907B2
6-Amino-2-(4-chloro-2-fluoro-3-methoxy-phenyl)-pyrimidine-4-carboxylic acid methyl ester (778 mg, 2.5 mmol) and F-TEDA (974 mg, 2.75 mmol) were combined in acetonitrile and heated at reflux for 4 hours (reaction made little progress after 1 hour). The reaction mixture was cooled to room temperature and filtered. The filtrate was concentrated, purified by column chromatography, and then purified a second time by preparative HPLC to yield 6-amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoropyrimidine-4-carboxylic acid methyl ester (26 mg, 3.2% yield): mp 200-202° C.: 1H NMR (CDCl3): δ 7.62 (dd, 1H), 7.21 (dd, 1H), 5.40 (br s, 2H), 4.02 (s, 3H), 4.0 (d, 3H)

reactant | 6-Amino-2-(4-chloro-2-fluoro-3-methoxy-phenyl)-pyrimidine-4-carboxylic acid methyl ester | 2.5 mmol, 778 mg | COC(=O)C1=NC(=NC(=C1)N)C1=C(C(=C(C=C1)Cl)OC)F | C13H11ClFN3O3
reactant | F-TEDA | 2.75 mmol, 974 mg | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoropyrimidine-4-carboxylic acid methyl ester | 26 mg, 3.2% yield | COC(=O)C1=NC(=NC(=C1F)N)C1=C(C(=C(C=C1)Cl)OC)F | C13H10ClF2N3O3
